US06689902B2
3-(3-Methyl-4-methoxyphenyl)-3-methylbutyric acid (11.1 g, 0.05 mol), acetic acid (22.3 g), and 48% hydrobromic acid aqueous solution (33.7 g, 0.2 mol) were mixed together, and stirred for 4 hours at 120° C. The mixture was cooled to room temperature, and the thus-obtained reaction solution was extracted with diethyl ether. The organic layer was washed with sodium chloride saturated aqueous solution, and then the solvent was removed by distillation to obtain 3-(3-methyl-4-hydroxyphenyl)-3-methylbutyric acid (10 g, yield: 95%).

reactant | 3-(3-Methyl-4-methoxyphenyl)-3-methylbutyric acid | 0.05 mol, 11.1 g | CC=1C=C(C=CC1OC)C(CC(=O)O)(C)C | C13H18O3
reactant | hydrobromic acid | 0.2 mol, 33.7 g | Br | BrH
solvent | acetic acid | 22.3 g | C(C)(=O)O | C2H4O2
product | 3-(3-methyl-4-hydroxyphenyl)-3-methylbutyric acid | 10 g, yield: 95% | CC=1C=C(C=CC1O)C(CC(=O)O)(C)C | C12H16O3
